US08168794B2
A solution containing 1 eq each of tert-butyl(3R,4R)-1-(3-aminopyridin-4-yl)-4-(tert-butyldimethylsilyloxy)piperidin-3-ylcarbamate, 2-bromothiazole-4-carboxylic acid, HOAT and EDC in DMF, at a concentration of 0.5 M, was stirred for 60 hours. The solution was diluted with EtOAc and was washed with H2O (4×), NaCl(sat.), was dried over MgSO4, was filtered and the volatiles were removed in vacuo yielding tert-butyl(3R,4R)-1-(3-(2-bromothiazole-4-carboxamido)pyridin-4-yl)-4-(tert-butyldimethylsilyloxy)piperidin-3-ylcarbamate, LCMS (m/z): 612.2/614.2 (MH+); LC Rt=4.26 min.

reactant | tert-butyl(3R,4R)-1-(3-aminopyridin-4-yl)-4-(tert-butyldimethylsilyloxy)piperidin-3-ylcarbamate | 1 eq | NC=1C=NC=CC1N1C[C@H]([C@@H](CC1)O[Si](C)(C)C(C)(C)C)NC(OC(C)(C)C)=O | C21H38N4O3Si
reactant | 2-bromothiazole-4-carboxylic acid | BrC=1SC=C(N1)C(=O)O | C4H2BrNO2S
reactant | HOAT | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(3R,4R)-1-(3-(2-bromothiazole-4-carboxamido)pyridin-4-yl)-4-(tert-butyldimethylsilyloxy)piperidin-3-ylcarbamate | BrC=1SC=C(N1)C(=O)NC=1C=NC=CC1N1C[C@H]([C@@H](CC1)O[Si](C)(C)C(C)(C)C)NC(OC(C)(C)C)=O | C25H38BrN5O4SSi
